US07439260B2
Step 3: 7-Bromo-4-(4-fluorophenyl)-3-methyl-2H-chromen-2-one
Phosphorous oxychloride (95.0 μL, 1.02 mmol) was added dropwise, at rt to a solution of N,N-diethylpropionamide (146 μL, 1.02 mmol) in 1,2-dichlorobenzene (1 mL). After 30 min. at rt, (4-bromo-2-hydroxyphenyl)(4-fluorophenyl)methanone (300 mg, 1.02 mmol) was added all at once. After 10 min. the reaction mixture was heated at 140° C. for 16 h and allowed to cool to rt. It was poured into 5% NaHCO3 (20 mL) and the resulting mixture stirred at 60° C. for 20 min., cooled to rt, acidified (pH=1) with 6N HCl and extracted with CHCl3. The combined organics were washed with water and brine, dried (Na2SO4), filtered and concentrated. The residue was subjected to chromatography on silica gel (EtOAc/toluene 1:100) affording the title compound as a white solid, contaminated with ˜10% of an impurity. It was used as such in the following step.

reactant | Phosphorous oxychloride | 1.02 mmol, 95.0 μL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-diethylpropionamide | 1.02 mmol, 146 μL | C(C)N(C(CC)=O)CC | C7H15NO
reactant | (4-bromo-2-hydroxyphenyl)(4-fluorophenyl)methanone | 1.02 mmol, 300 mg | BrC1=CC(=C(C=C1)C(=O)C1=CC=C(C=C1)F)O | C13H8BrFO2
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | 1,2-dichlorobenzene | 1 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 7-Bromo-4-(4-fluorophenyl)-3-methyl-2H-chromen-2-one | BrC1=CC=C2C(=C(C(OC2=C1)=O)C)C1=CC=C(C=C1)F | C16H10BrFO2
